US07932272B2
To a solution of resorcinol (10 g, 90.8 mmol) in N,N-dimethylformamide (100 mL) was added potassium carbonate (12.6 g, 90.8 mmol) and benzyl bromide (10.8 mL, 90.8 mmol), and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was allowed to room temperature, ethyl acetate and water were added for partitioning, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated, then, the residue was purified by silica gel column chromatography (hexane:ethyl acetate), and 3-benzyloxy-phenol (6.0 g, 33%) was obtained as a pale brown oil.

reactant | resorcinol | 90.8 mmol, 10 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium carbonate | 90.8 mmol, 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 90.8 mmol, 10.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-benzyloxy-phenol | 6.0 g, 33% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
